US06165800
To a suspension of 10 g (44.94 mmol) of 4-bromobenzylamine hydrochloride in 200 ml of chloroform was added 12.5 ml (89.62 mmol) of triethylamine, followed by the addition of 8.99 g (60.67 mmol) of phthalic anhydride. The mixture was stirred at room temperature for 10 minutes to give a homogeneous solution, which was then heated at 75° C. for three hours. The reaction mixture was then evaporated to remove the chloroform and the residue was suspended in 400 ml of toluene followed by adding 700 mg of p-toluenesulfonic acid monohydrate. The resulting mixture was briefly refluxed at 140° C., and additional 3 ml of triethylamine was added to form a homogeneous solution. The solution was refluxed at 140° C. for 2 hours; and the water formed was collected through a Dean-Stark trap apparatus. The solution was then cooled to room temperature, washed with 3% sodium hydroxide (2×200 ml), water (1×200 ml), brine (1×200 ml), and dried over sodium sulfate. Removal of the solvent under reduced pressure gave 12.07 g (85% yield) of 4-phthalimidomethyl bromobenzene as a white solid. Rf: 0.6 (silica gel, ethyl acetate:hexane=1:2). 1H NMR (CDCl3): δ ppm 4.79 (2H, s), 7.31, 7.44 (2H each, AA'BB'), 7.73, 7.84 (2H each, m).

reactant | 4-bromobenzylamine hydrochloride | 44.94 mmol, 10 g | Cl.BrC1=CC=C(CN)C=C1
reactant | triethylamine | 89.62 mmol, 12.5 ml | C(C)N(CC)CC | C6H15N
reactant | phthalic anhydride | 60.67 mmol, 8.99 g | C1(C=2C(C(=O)O1)=CC=CC2)=O | C8H4O3
reactant | water | O | H2O
solvent | chloroform | 200 ml | C(Cl)(Cl)Cl | CHCl3
product | 4-phthalimidomethyl bromobenzene | 12.07 g, 85% yield | C1(C=2C(C(N1CC1=CC=C(C=C1)Br)=O)=CC=CC2)=O | C15H10BrNO2
